2138-04-15 07:22:00 Physician Resident Progress Note
Chief Complaint: Hematemesis
   24 Hour Events:
 EKG - At [**2138-4-15**] 12:54 AM
 UNPLANNED LINE/CATHETER REMOVAL (PATIENT INITIATED) - At [**2138-4-15**]
   06:37 AM
   0230 Patient with significant hematemesis  about 200 cc, became
   tachycardic and hypotensive. Good response to 2 L IVF and PRBC. GI
   paged and pt. intubated for airway protection. Patient with 500cc
   hematemesis post intubation and hypotensive. Started phenylephrine,
   placed RIJ. Patient received total 4 L IVF and 3 PRBC. Switched to
   levophed this morning. GI to scope at 0800.
   History obtained from Family / Friend
   Allergies:
   History obtained from Family / FriendCodeine
   Nausea/Vomiting
   Benzodiazepines
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-4-15**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 34.7
C (94.5
   HR: 113 (100 - 145) bpm
   BP: 73/46(52) {62/26(30) - 134/89(95)} mmHg
   RR: 15 (14 - 40) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
           Total In:
                                                                    375 mL
                                                                    875 mL
   PO:
           TF:
   IVF:
   500 mL
   Blood products:
                                                                    375 mL
                                                                    375 mL
   Total out:
                                                                    250 mL
                                                                    305 mL
   Urine:
                                                                    250 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    125 mL
                                                                    570 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   SpO2: 97%
   ABG: ///32/
   Ve: 5.9 L/min
   Physical Examination
   Cardiovascular: irreg irregular, tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: righ lower lobe,
   Rhonchorous: anterior)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   271 K/uL
   9.3 g/dL
   118 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.2 mEq/L
   14 mg/dL
   104 mEq/L
   141 mEq/L
   27.7 %
   10.5 K/uL
                             [**2138-4-14**]  09:44 PM
                             [**2138-4-15**]  03:03 AM
   WBC
   12.0
   10.5
   Hct
   29.8
   27.7
   Plt
   286
   271
   Cr
   0.6
   0.6
   Glucose
   107
   118
   Other labs: PT / PTT / INR:15.0/26.7/1.3, ALT / AST:[**6-18**], Alk Phos / T
   Bili:65/0.6, Amylase / Lipase:14/8, Differential-Neuts:75.0 %,
   Lymph:17.4 %, Mono:5.6 %, Eos:1.8 %, Albumin:2.7 g/dL, LDH:152 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.6 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   ASSESSMENT/PLAN
   87 year old Russian-speaking female with h/o breast cancer, esophageal
   cancer (requiring esophogeal stent), afib, DMII, s/p EGD with
   additional stent placement adm with hematemesis/UGIB initially HD
   stable with decompensation overnight.
   Hematemesis
   -          suspect esophageal source versus gastritis, less likely PUD
   given no pain with eating.
   -          Q4H HCT
   -          RIJ placed
   -          To be scoped by GI this AM
   -          IV PPI
   -          NPO
   -          Transfuse HCT<25 or HD unstable with precipitous drop in HCT
   Hypotension
   -          secondary to blood loss in setting hematemesis
   -          no evidence for sepsis
   -          transfuse HCT<25
   -          keep MAP >60
   -          wean pressors as tolerated for MAP>60
   -          IVF bolus for UOP<30cc/r and goal CVP 10-12
   -          need to place a-line
   Respiratory
   -          intubated for airway protection, pull back ETT 2 cm and
   recheck CXR
   -          follow  ABG and adjust vent settings
   -          daily CXR
   Pleural effusions:  Interval increase in size of bilateral pleural
   effusions despite talc pleurodeisis.
   Will consider thoracentesis for symptom relief
   CAD: Hold ASA for possible procedure.  Does not appear to be ACS.  EKG
   without changes and patient without symptoms typical for MI.
   PUMP: EF55%.  Hold BB, ACE & Diuretic at this time. No need for repeat
   ECHO at this time.
   RHYTHM: afib, on high dose ASA.  Will hold ASA.  Rate well controlled
   at this time.
   Onc: Followed by Dr. [**First Name8 (NamePattern2) 393**] [**Last Name (NamePattern1) 1827**].  Will let provider know that
   patient is in house.
   DM: Will place on sliding scale
   FEN: electrolyte scales
   Nutrition: NPO
   ICU Care
   Nutrition: NPO
   Glycemic Control:  sliding scale insulin and adjust prn
   Lines:
   16 Gauge - [**2138-4-14**] 06:36 PM
   18 Gauge - [**2138-4-14**] 06:37 PM
   RIJ line placed this morning
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: FULL CODE
   Disposition: ICU

2138-04-15 09:15:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   81 yo F with afib on asa, dm, breast ca with recently dx'd esoph ca
   with stent placement, presents with UGIB, HD stable
   24 Hour Events:
 EKG - At [**2138-4-15**] 12:54 AM
 UNPLANNED LINE/CATHETER REMOVAL (PATIENT INITIATED) - At [**2138-4-15**]
   06:37 AM
   became tachy to 140's and hypotensive ovenight
   repeat hct 29 after 1 unit PRBCs, then 2 additional units given with
   return hct 27
   increased hematemesis with GI notified
   intubated electively for airway control with additonal hematemesis
   hypotensive this am for which additional blood, 5 L NS IVF, then
   pressors hung (levophed)
   R IJ placed this am
   History obtained from Medical records, house staff
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Codeine
   Nausea/Vomiting
   Benzodiazepines
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reivewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-4-15**] 09:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 34.7
C (94.5
   HR: 96 (96 - 145) bpm
   BP: 90/38(51) {62/26(30) - 134/89(95)} mmHg
   RR: 14 (14 - 40) insp/min
   SpO2: 80%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
           Total In:
                                                                    375 mL
                                                                  4,438 mL
   PO:
           TF:
   IVF:
   4,063 mL
   Blood products:
                                                                    375 mL
                                                                    375 mL
   Total out:
                                                                    250 mL
                                                                    525 mL
   Urine:
                                                                    250 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    125 mL
                                                                  3,913 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 5.9 L/min
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic),
   irreg, tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   b/b, Diminished: r base)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   271 K/uL
   118 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.2 mEq/L
   14 mg/dL
   104 mEq/L
   141 mEq/L
   20.8 %
   10.5 K/uL
        [image002.jpg]
                             [**2138-4-14**]  09:44 PM
                             [**2138-4-15**]  03:03 AM
                             [**2138-4-15**]  06:52 AM
   WBC
   12.0
   10.5
   Hct
   29.8
   27.7
   20.8
   Plt
   286
   271
   Cr
   0.6
   0.6
   Glucose
   107
   118
   Other labs: PT / PTT / INR:15.0/26.7/1.3, ALT / AST:[**6-18**], Alk Phos / T
   Bili:65/0.6, Amylase / Lipase:14/8, Differential-Neuts:75.0 %,
   Lymph:17.4 %, Mono:5.6 %, Eos:1.8 %, Albumin:2.7 g/dL, LDH:152 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.6 mg/dL, PO4:2.6 mg/dL
   Imaging: cxr:  intubated et low (pull up 2 cm), R IJ low, R fibrotic
   changes and b/l small effusions, without change
   Microbiology: blood cx's pending [**4-14**]
   Assessment and Plan
   81 yo F with afib on asa, dm, breast ca with recently dx'd esoph ca
   with stent placement, presents with hematemesis/UGIB, HD stable on
   admit but progressively hyopotensive overnight w/ ongoing bleeding now
   on low dose pressor support, intubated for airway control
   # GIB--suspect [**1-4**] esoph source vs. possible gastritis, avm/pud
   EGD this am to localize/intervene on bleeding site
   continue close monitoring of h/h Q 4 hrs
   NPO
   continue IV PPI
   large bore PIV access now with IJ
   follow fibrinogen and plts and i ca in setting of multiple unit
   transfusions
   # hypotension--in setting of ongoing blood loss with decreasing h/h, af
   without suspicion for septic picture, continue aggressive fluid/colloid
   resus for goal cvp > 10, wean pressors for MAP > 60, cx's pending from
   admit, recx in setting of spike or wbc elevation, place a-line
   # resp failure-intubated for airway control in setting of hematemesis,
   check ABG to adjust vent settings
   #pleural effusions--appear mildly increased c/t prior films, repeat
   [**Female First Name (un) **] once stabilized from bleeding issue
   # CAD--hold asa, holding BP meds given need for preesor support
   # pump-- ef 55%, hold lasix and BB
   # Afib--holding asa as noted, hold BB tonight
   # DM--hold oral meds while NPO, SSI
   # sedation--fent/versed
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   16 Gauge - [**2138-4-14**] 06:36 PM
   18 Gauge - [**2138-4-14**] 06:37 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2138-04-16 07:31:00 Physician Resident Progress Note
Chief Complaint: UGIB
   24 Hour Events:
 INVASIVE VENTILATION - START [**2138-4-15**] 05:52 PM
 ARTERIAL LINE - START [**2138-4-15**] 08:46 PM
    EGD: Large clot in esophagus - likely erosion of esophageal cancer
   through stent/wall.  No intervention possible by GI.
   - A-Line placed, ABG's stable overnight
   - Pulled back ET tube 2cm, and IJ 5cm.  Repeat CXR showed satisfactory
   positioning.
   - Hct bumped appropriately to 3 units PRBC's,  received 1 units 4am for
   HCT 31
   - Persistently tachycardic overnight, bolusing IVF's - received 6L LR
   on night shift.  Repeat Hct 38 -> 36 ->31.  Able to wean pressors, but
   persistently tachycardic.
   - Bleeding from mouth overnight, suctioning back blood tinged fluid
   from ET Tube -> increased cuff pressures.
   - New Leukocytosis on labs - ? leukemoid reaction, added differential.
   - Abdomen distended - KUB showing air in bowel, no air fluid levels, no
   significant distension.
   - Met with family who agreed with DNR status. Understand grim
   situation.  Would like to discuss further when son arrives from [**Name (NI) **]
   tomorrow.
   - Repleting K+ this AM.
   Allergies:
   Codeine
   Nausea/Vomiting
   Benzodiazepines
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-4-16**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.4
C (97.5
   HR: 125 (96 - 153) bpm
   BP: 114/52 (68), {65/23(32) - 124/80(91)} mmHg
   RR: 10 (0 - 17) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
    CVP: 14 (5 - 15)mmHg
   Total In:
                                                                 10,366 mL
                                                                  2,617 mL
   PO:
   TF:
   IVF:
                                                                  8,866 mL
                                                                  2,617 mL
   Blood products:
                                                                  1,500 mL
   Total out:
                                                                  1,370 mL
                                                                    250 mL
   Urine:
                                                                  1,370 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,996 mL
                                                                  2,367 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 39 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.32/44/105/22/-3
   Ve: 4.3 L/min
   PaO2 / FiO2: 263
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: anterior)
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   172 K/uL
   12.0 g/dL
   184 mg/dL
   0.4 mg/dL
   22 mEq/L
   2.8 mEq/L
   14 mg/dL
   113 mEq/L
   139 mEq/L
   33.2 %
   16.3 K/uL
        [image002.jpg]
                             [**2138-4-14**]  09:44 PM
                             [**2138-4-15**]  03:03 AM
                             [**2138-4-15**]  06:52 AM
                             [**2138-4-15**]  09:15 AM
                             [**2138-4-15**]  04:04 PM
                             [**2138-4-15**]  08:00 PM
                             [**2138-4-15**]  08:23 PM
                             [**2138-4-16**]  01:40 AM
                             [**2138-4-16**]  04:14 AM
                             [**2138-4-16**]  04:29 AM
   WBC
   12.0
   10.5
   18.2
   16.3
   Hct
   29.8
   27.7
   20.8
   38.1
   36.0
   31.0
   33.2
   Plt
   286
   271
   223
   172
   Cr
   0.6
   0.6
   0.4
   TCO2
   25
   23
   24
   Glucose
   107
   118
   184
   Other labs: PT / PTT / INR:15.7/33.1/1.4, ALT / AST:[**10-20**], Alk Phos / T
   Bili:58/0.8, Amylase / Lipase:14/8, Differential-Neuts:75.0 %,
   Lymph:17.4 %, Mono:5.6 %, Eos:1.8 %, Fibrinogen:219 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:160 IU/L, Ca++:7.1 mg/dL,
   Mg++:1.1 mg/dL, PO4:2.6 mg/dL
   MICRO: [**4-14**] blood cx ngtd
   IMAGING:
   Assessment and Plan
   ASSESSMENT/PLAN
   87 year old Russian-speaking female with h/o breast cancer, esophageal
   cancer (requiring esophogeal stent), afib, DMII, s/p EGD with
   additional stent placement adm with hematemesis/UGIB initially HD
   stable with decompensation
   .
   UGIB
   -          confirmed esophageal source, no intervention possible per
   GI, patient high risk to rebleed and become unstable, her son is coming
   in today from [**Country **] to see his mother and at that point the family
   will discuss her status, currently DNR
   -          Q4H HCT
   -          IV PPI
   -          NPO
   -          Transfuse HCT<25 or HD unstable with precipitous drop in
   HCT, required 5 units blood yesterday
   .
   Hypotension
   -          secondary to blood loss in setting hematemesis
   -          cx NGTD
   -          transfuse HCT<25 or acute drop
   -          keep MAP >60
   -          off pressors
   -          IVF bolus for UOP<30cc/r and goal CVP 10-12, received 6 L
   yesterday
   -          need to place a-line
   .
   Respiratory
   -          intubated for airway protection
   -          PIP increasing which may be bronchospasm and overload, will
   add nebulizers and may diurese if pressures stable
   -          daily CXR
   .
   Tachycardia
   -          not responsive to IVF makes volume depletion less likely,
   persistent blood loss, UOP has been >30cc/hr
   -          atrial fibrillation for which she received digoxin this
   morning, continue with digoxin load
   -          start Lopressor 5mg IV q6h, if BP steady may try diuresis
   given this may be component of overloaded atria
   -          DDX: PE, ongoing blood loss, atrial fib, infection
   .
   Leukocytosis
   -          likely stress response, f/u diff, check U/A and sputum, cx
   if spikes
   .
   Pleural effusions:  Interval increase in size of bilateral pleural
   effusions despite talc pleurodeisis.
   Will consider thoracentesis for symptom relief.
   .
   CAD: Hold ASA for possible procedure.  Does not appear to be ACS.  EKG
   without changes and patient without symptoms typical for MI.
   .
   PUMP: EF55%.  Lopressor 5 IV q6h, holding ACE & Diuretic at this time.
   ..
   DM: sliding scale
   .
   FEN: electrolyte scales
   .
   Nutrition: NPO
   .
   GOALS OF CARE: Address with family once her son arrives from [**Name (NI) **]
   today.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  SSI
   Lines:
   16 Gauge - [**2138-4-14**] 06:36 PM
   18 Gauge - [**2138-4-14**] 06:37 PM
   Multi Lumen - [**2138-4-15**] 06:00 AM
   Arterial Line - [**2138-4-15**] 08:46 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition: ICU

2138-04-16 09:26:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   81 yo F with afib on asa, dm, breast ca with recently dx'd esoph ca
   with stent placement, presents with hematemesis/UGIB, HD stable on
   admit but then progressively hyopotensive in setting of ongoing
   bleeding, resuscitated, off pressors,  intubated for airway control
   24 Hour Events:
 INVASIVE VENTILATION - START [**2138-4-15**] 05:52 PM
 ARTERIAL LINE - START [**2138-4-15**] 08:46 PM
   egd yesterday--> large clot in distal stent, likely esoph ca eroding,
   no intervention
       performed given risk of increased bleeding
   a-line placed
   4 units prbc transfused yesterday, 1 unit prbc this am (HCT 38
33 4 am)
   remains tachy/a-fib/rvr  --> 6 L IVF overnight, weaned off pressors
   Dig dose given
   Allergies:
   Codeine
   Nausea/Vomiting
   Benzodiazepines
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-4-16**] 07:58 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-4-16**] 09:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.8
C (96.5
   HR: 143 (101 - 153) bpm
   BP: 118/64(79) {87/48(62) - 130/76(97)} mmHg
   RR: 11 (0 - 17) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
   CVP: 12 (6 - 15)mmHg
   Total In:
                                                                 10,366 mL
                                                                  2,765 mL
   PO:
   TF:
   IVF:
                                                                  8,866 mL
                                                                  2,765 mL
   Blood products:
                                                                  1,500 mL
   Total out:
                                                                  1,370 mL
                                                                    295 mL
   Urine:
                                                                  1,370 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,996 mL
                                                                  2,470 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 310 (310 - 310) mL
   PS : 15 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 33 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: 7.32/44/105/22/-3
   Ve: 5.2 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: Well nourished, No acute distress, intubated
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irreg, tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: sedated, Movement: Not assessed, Sedated, Tone: normal
   Labs / Radiology
   12.0 g/dL
   172 K/uL
   184 mg/dL
   0.4 mg/dL
   22 mEq/L
   2.8 mEq/L
   14 mg/dL
   113 mEq/L
   139 mEq/L
   33.2 %
   16.3 K/uL
        [image002.jpg]
                             [**2138-4-14**]  09:44 PM
                             [**2138-4-15**]  03:03 AM
                             [**2138-4-15**]  06:52 AM
                             [**2138-4-15**]  09:15 AM
                             [**2138-4-15**]  04:04 PM
                             [**2138-4-15**]  08:00 PM
                             [**2138-4-15**]  08:23 PM
                             [**2138-4-16**]  01:40 AM
                             [**2138-4-16**]  04:14 AM
                             [**2138-4-16**]  04:29 AM
   WBC
   12.0
   10.5
   18.2
   16.3
   Hct
   29.8
   27.7
   20.8
   38.1
   36.0
   31.0
   33.2
   Plt
   286
   271
   223
   172
   Cr
   0.6
   0.6
   0.4
   TCO2
   25
   23
   24
   Glucose
   107
   118
   184
   Other labs: PT / PTT / INR:15.7/33.1/1.4, ALT / AST:[**10-20**], Alk Phos / T
   Bili:58/0.8, Amylase / Lipase:14/8, Differential-Neuts:75.0 %,
   Lymph:17.4 %, Mono:5.6 %, Eos:1.8 %, Fibrinogen:219 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:160 IU/L, Ca++:7.1 mg/dL,
   Mg++:1.1 mg/dL, PO4:2.6 mg/dL
   Imaging: cxr--r pleurodesis, chronic r eff layering, et ok, r ij in
   svc, no obvious change, very rotated
   Microbiology: [**4-14**] bl ngtd
   Assessment and Plan
   81 yo F with afib on asa, dm, breast ca with recently dx'd esoph ca
   with stent placement, presents with hematemesis/UGIB, HD stable on
   admit but progressively hypotensive  insetting of ongoing bleeding,
   intubated for airway control, now off pressors
   # GIB
large clot adherent to stent
no intervention given high risk of
   worsening bleeding if clot dislodged
   continue close monitoring w/  h/h Q 4 hrs
   keep NPO
   continue IV PPI
   large bore PIV access and R  IJ
   follow fibrinogen/plts/ica in setting of multiple unit transfusions
    #A-fib/tachycardia -- appears adequately fluid resuscitated, off
   pressors,  cvp 10-15
   Attempt rate control--Continue dig load,  BB--IV Q 6 and consider gtt
   of calcium channel or bb if no response
   # Hypotension--in setting of ongoing blood loss with decreasing h/h, af
   without suspicion for septic picture, after aggressive colloid and IVF
   has  tapered off pressors, currently normotensive despite rapir heart
   rate
   # resp failure-intubated for airway control in setting of hematemesis
   pips creepping up this am, suspect [**1-4**] resuscitation and vol o/l/pulm
   edema, appears adequately sedated
   treat possible bronchospasm, decrease tv by 50 cc if no response,
   follow abg,
   if BP ermains stable after rate control interventions,  may try gentle
   lasix
   #leukocytosis
   Remains af, check u/a with cx, blood cx from admit ngtd, recs if spikes
   #pleural effusions--appear mildly increased c/t prior films in setting
   of fluids/blood resuscitation, follow,
   # CAD
   # Pump (ef 55%)
   hold asa
   BB, lasix as above as BP tolerates
   # DM
   hold oral meds while NPO, SSI
   # Sedation--fent/versed
   #Family mtg today to discuss goals of care
   ICU Care
   Nutrition:
   Comments: npo
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   16 Gauge - [**2138-4-14**] 06:36 PM
   18 Gauge - [**2138-4-14**] 06:37 PM
   Multi Lumen - [**2138-4-15**] 06:00 AM
   Arterial Line - [**2138-4-15**] 08:46 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Critically ill

2138-04-17 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Codeine
   Nausea/Vomiting
   Benzodiazepines
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-4-16**] 07:58 AM
   Metoprolol - [**2138-4-16**] 10:00 AM
   Diltiazem - [**2138-4-16**] 11:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-4-17**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.3
C (97.3
   HR: 102 (102 - 174) bpm
   BP: 76/46(56) {71/46(56) - 126/71(87)} mmHg
   RR: 14 (11 - 15) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
    CVP: 13 (9 - 13)mmHg
   Total In:
                                                                  4,445 mL
                                                                     74 mL
   PO:
   TF:
   IVF:
                                                                  4,070 mL
                                                                     74 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    350 mL
                                                                     80 mL
   Urine:
                                                                    350 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,095 mL
                                                                     -6 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   Vt (Spontaneous): 0 (0 - 310) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 21%
   RSBI Deferred: CMO
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 94%
   ABG: 7.25/50/131//-5
   Ve: 5 L/min
   PaO2 / FiO2: 624
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   172 K/uL
   12.0 g/dL
   184 mg/dL
   0.4 mg/dL
   22 mEq/L
   2.8 mEq/L
   14 mg/dL
   113 mEq/L
   139 mEq/L
   33.7 %
   16.3 K/uL
        [image002.jpg]
                             [**2138-4-15**]  04:04 PM
                             [**2138-4-15**]  08:00 PM
                             [**2138-4-15**]  08:23 PM
                             [**2138-4-16**]  01:40 AM
                             [**2138-4-16**]  04:14 AM
                             [**2138-4-16**]  04:29 AM
                             [**2138-4-16**]  08:55 AM
                             [**2138-4-16**]  09:44 AM
                             [**2138-4-16**]  01:28 PM
                             [**2138-4-16**]  06:46 PM
   WBC
   18.2
   16.3
   Hct
   38.1
   36.0
   31.0
   33.2
   38.8
   36.0
   33.7
   Plt
   223
   172
   Cr
   0.4
   TCO2
   23
   24
   23
   Glucose
   184
   Other labs: PT / PTT / INR:15.7/33.1/1.4, ALT / AST:[**10-20**], Alk Phos / T
   Bili:58/0.8, Amylase / Lipase:14/8, Differential-Neuts:75.0 %,
   Lymph:17.4 %, Mono:5.6 %, Eos:1.8 %, Fibrinogen:219 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.0 g/dL, LDH:160 IU/L, Ca++:7.1 mg/dL,
   Mg++:1.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   87 year old Russian-speaking female with h/o breast cancer, esophageal
   cancer (requiring esophogeal stent), afib, DMII, s/p EGD with
   additional stent placement adm with hematemesis/UGIB initially HD
   stable with decompensation
   .
   UGIB
   -          confirmed esophageal source, no intervention possible per
   GI, patient high risk to rebleed and become unstable, her son is coming
   in today from [**Country **] to see his mother and at that point the family
   will discuss her status, currently DNR
   -          Q4H HCT
   -          IV PPI
   -          NPO
   -          Transfuse HCT<25 or HD unstable with precipitous drop in
   HCT, required 5 units blood yesterday
   .
   Hypotension
   -          secondary to blood loss in setting hematemesis
   -          cx NGTD
   -          transfuse HCT<25 or acute drop
   -          keep MAP >60
   -          off pressors
   -          IVF bolus for UOP<30cc/r and goal CVP 10-12, received 6 L
   yesterday
   -          need to place a-line
   .
   Respiratory
   -          intubated for airway protection
   -          PIP increasing which may be bronchospasm and overload, will
   add nebulizers and may diurese if pressures stable
   -          daily CXR
   .
   Tachycardia
   -          not responsive to IVF makes volume depletion less likely,
   persistent blood loss, UOP has been >30cc/hr
   -          atrial fibrillation for which she received digoxin this
   morning, continue with digoxin load
   -          start Lopressor 5mg IV q6h, if BP steady may try diuresis
   given this may be component of overloaded atria
   -          DDX: PE, ongoing blood loss, atrial fib, infection
   .
   Leukocytosis
   -          likely stress response, f/u diff, check U/A and sputum, cx
   if spikes
   .
   Pleural effusions:  Interval increase in size of bilateral pleural
   effusions despite talc pleurodeisis.
   Will consider thoracentesis for symptom relief.
   .
   CAD: Hold ASA for possible procedure.  Does not appear to be ACS.  EKG
   without changes and patient without symptoms typical for MI.
   .
   PUMP: EF55%.  Lopressor 5 IV q6h, holding ACE & Diuretic at this time.
   ..
   DM: sliding scale
   .
   FEN: electrolyte scales
   .
   Nutrition: NPO
   .
   GOALS OF CARE: Address with family once her son arrives from [**Name (NI) **]
   today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2138-4-14**] 06:36 PM
   18 Gauge - [**2138-4-14**] 06:37 PM
   Multi Lumen - [**2138-4-15**] 06:00 AM
   Arterial Line - [**2138-4-15**] 08:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2138-04-17 08:38:00 Physician Attending Progress Note
Chief Complaint: Esophageal Ca s/p stent s/p UGI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  87 y/o F with esophageal cancer s/p palliative stent, admitted w/
   UGI bleed due to cancer eroding thru stent
   [**53**] Hour Events:
   Family meeting -> CMO
   On morphine drip
   Still on vent
   Allergies:
   Codeine
   Nausea/Vomiting
   Benzodiazepines
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2138-4-16**] 10:00 AM
   Diltiazem - [**2138-4-16**] 11:53 AM
   Other medications:
   Changes to medical and family history: unchanged from admit
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-4-17**] 08:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.3
C (97.3
   HR: 92 (92 - 174) bpm
   BP: 75/43(54) {71/43(54) - 126/71(87)} mmHg
   RR: 14 (11 - 14) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
   CVP: 13 (9 - 13)mmHg
   Total In:
                                                                  4,445 mL
                                                                     74 mL
   PO:
   TF:
   IVF:
                                                                  4,070 mL
                                                                     74 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    350 mL
                                                                     80 mL
   Urine:
                                                                    350 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,095 mL
                                                                     -6 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 21%
   RSBI Deferred: CMO
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 94%
   ABG: 7.25/50/131//-5
   Ve: 5 L/min
   PaO2 / FiO2: 624
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: Afib, irregular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: Comfortable on AC
   Skin:  Not assessed
   Neurologic: sedated, unresponsive
   Labs / Radiology
   12.0 g/dL
   172 K/uL
   184 mg/dL
   0.4 mg/dL
   22 mEq/L
   2.8 mEq/L
   14 mg/dL
   113 mEq/L
   139 mEq/L
   33.7 %
   16.3 K/uL
        [image002.jpg]
                             [**2138-4-15**]  04:04 PM
                             [**2138-4-15**]  08:00 PM
                             [**2138-4-15**]  08:23 PM
                             [**2138-4-16**]  01:40 AM
                             [**2138-4-16**]  04:14 AM
                             [**2138-4-16**]  04:29 AM
                             [**2138-4-16**]  08:55 AM
                             [**2138-4-16**]  09:44 AM
                             [**2138-4-16**]  01:28 PM
                             [**2138-4-16**]  06:46 PM
   WBC
   18.2
   16.3
   Hct
   38.1
   36.0
   31.0
   33.2
   38.8
   36.0
   33.7
   Plt
   223
   172
   Cr
   0.4
   TCO2
   23
   24
   23
   Glucose
   184
   Other labs: PT / PTT / INR:15.7/33.1/1.4, ALT / AST:[**10-20**], Alk Phos / T
   Bili:58/0.8, Amylase / Lipase:14/8, Differential-Neuts:75.0 %,
   Lymph:17.4 %, Mono:5.6 %, Eos:1.8 %, Fibrinogen:219 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.0 g/dL, LDH:160 IU/L, Ca++:7.1 mg/dL,
   Mg++:1.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   87 y/o F with esophageal cancer s/p palliative stent, with UGI bleed
   due to cancer eroding thru stent.
   Made CMO by family yesterday.
   Family understands prognosis.
   Call family to bedside, then switch to T piece.
   Continue morphine drip for comfort.
   Notify organ bank.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2138-4-14**] 06:36 PM
   18 Gauge - [**2138-4-14**] 06:37 PM
   Multi Lumen - [**2138-4-15**] 06:00 AM
   Arterial Line - [**2138-4-15**] 08:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition :  ICU
   Total time spent:  25

2138-04-18 07:34:00 Physician Resident Progress Note
Chief Complaint: 88F with esophageal cancer, CMO on morphine gtt
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2138-4-17**] 09:41 AM
 ARTERIAL LINE - STOP [**2138-4-17**] 10:02 PM
   - still CMO, comfortable on morphine gtt
   Allergies:
   Codeine
   Nausea/Vomiting
   Benzodiazepines
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Morphine Sulfate - 50 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-4-18**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 87 (87 - 116) bpm
   BP: 75/43(54) {75/43(54) - 75/43(54)} mmHg
   RR: 10 (8 - 16) insp/min
   Height: 61 Inch
             Total In:
                                                                    459 mL
                                                                    385 mL
   PO:
             TF:
   IVF:
                                                                    459 mL
                                                                    385 mL
   Blood products:
   Total out:
                                                                     80 mL
                                                                      0 mL
   Urine:
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    379 mL
                                                                    385 mL
   Respiratory support
   ABG: ////
   Physical Examination
   General Appearance: comfortable on morphine gtt
   Cardiovascular: (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), appears comfortable
   breathing through ET tube
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   172 K/uL
   12.0 g/dL
   184 mg/dL
   0.4 mg/dL
   22 mEq/L
   2.8 mEq/L
   14 mg/dL
   113 mEq/L
   139 mEq/L
   33.7 %
   16.3 K/uL
        [image002.jpg]
                             [**2138-4-15**]  04:04 PM
                             [**2138-4-15**]  08:00 PM
                             [**2138-4-15**]  08:23 PM
                             [**2138-4-16**]  01:40 AM
                             [**2138-4-16**]  04:14 AM
                             [**2138-4-16**]  04:29 AM
                             [**2138-4-16**]  08:55 AM
                             [**2138-4-16**]  09:44 AM
                             [**2138-4-16**]  01:28 PM
                             [**2138-4-16**]  06:46 PM
   WBC
   18.2
   16.3
   Hct
   38.1
   36.0
   31.0
   33.2
   38.8
   36.0
   33.7
   Plt
   223
   172
   Cr
   0.4
   TCO2
   23
   24
   23
   Glucose
   184
   Other labs: PT / PTT / INR:15.7/33.1/1.4, ALT / AST:[**10-20**], Alk Phos / T
   Bili:58/0.8, Amylase / Lipase:14/8, Differential-Neuts:75.0 %,
   Lymph:17.4 %, Mono:5.6 %, Eos:1.8 %, Fibrinogen:219 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.0 g/dL, LDH:160 IU/L, Ca++:7.1 mg/dL,
   Mg++:1.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   88F with esophageal cancer s/p palliative stenting, who presented with
   UGIB.  currently esophagus is clotted off preventing any bleeding.
   Made CMO by family on [**4-16**]
   Comfortable on morphine gtt
   ET tube to remain in place to prevent any UGIB
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2138-4-14**] 06:37 PM
   Multi Lumen - [**2138-4-15**] 06:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition:

2138-04-18 11:35:00 Physician Attending Progress Note
Chief Complaint: gib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87 y/o F with esophageal cancer s/p palliative stent, with UGI bleed
   due to cancer eroding thru stent.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2138-4-17**] 09:41 AM
 ARTERIAL LINE - STOP [**2138-4-17**] 10:02 PM
   labs, a line d/c'd
   History obtained from ho
   Patient unable to provide history: Unresponsive
   Allergies:
   Codeine
   Nausea/Vomiting
   Benzodiazepines
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-4-18**] 11:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 87 (87 - 116) bpm
   BP: 75/43(54) {0/0(0) - 0/0(0)} mmHg
   RR: 10 (8 - 16) insp/min
   Height: 61 Inch
             Total In:
                                                                    459 mL
                                                                    415 mL
   PO:
             TF:
   IVF:
                                                                    459 mL
                                                                    415 mL
   Blood products:
   Total out:
                                                                     80 mL
                                                                      0 mL
   Urine:
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    379 mL
                                                                    415 mL
   Respiratory support
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Diminished: , Rhonchorous: )
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.0 g/dL
   172 K/uL
   184 mg/dL
   0.4 mg/dL
   22 mEq/L
   2.8 mEq/L
   14 mg/dL
   113 mEq/L
   139 mEq/L
   33.7 %
   16.3 K/uL
        [image002.jpg]
                             [**2138-4-15**]  04:04 PM
                             [**2138-4-15**]  08:00 PM
                             [**2138-4-15**]  08:23 PM
                             [**2138-4-16**]  01:40 AM
                             [**2138-4-16**]  04:14 AM
                             [**2138-4-16**]  04:29 AM
                             [**2138-4-16**]  08:55 AM
                             [**2138-4-16**]  09:44 AM
                             [**2138-4-16**]  01:28 PM
                             [**2138-4-16**]  06:46 PM
   WBC
   18.2
   16.3
   Hct
   38.1
   36.0
   31.0
   33.2
   38.8
   36.0
   33.7
   Plt
   223
   172
   Cr
   0.4
   TCO2
   23
   24
   23
   Glucose
   184
   Other labs: PT / PTT / INR:15.7/33.1/1.4, ALT / AST:[**10-20**], Alk Phos / T
   Bili:58/0.8, Amylase / Lipase:14/8, Differential-Neuts:75.0 %,
   Lymph:17.4 %, Mono:5.6 %, Eos:1.8 %, Fibrinogen:219 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.0 g/dL, LDH:160 IU/L, Ca++:7.1 mg/dL,
   Mg++:1.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   87 y/o F with esophageal cancer s/p palliative stent, with UGI bleed
   due to cancer eroding thru stent.
   CMO
   Family understands prognosis.
   Remains on t-piece with humdiified air
   Discuss with family removal of t piece
   Continue morphine drip for comfort.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2138-4-14**] 06:37 PM
   Multi Lumen - [**2138-4-15**] 06:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition :ICU
   Total time spent: 25 minutes